US09029536B2
A) 3-(6-Methoxypyridin-3-yl)-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine
To a mixture of 3-bromo-1-isopropyl-1H-pyrazolo[4,3-b]pyridine (100 mg), 6-methoxypyridin-3-ylboronic acid (96 mg), Pd(OAc)2 (9.35 mg), and Xphos (39.7 mg) in THF (3 mL) was added a solution of Cs2CO3 (271 mg) in H2O (1 mL). The mixture was exposed to microwave irradiation at 100° C. for 30 min, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (100 mg).

reactant | 3-bromo-1-isopropyl-1H-pyrazolo[4,3-b]pyridine | 100 mg | BrC1=NN(C=2C1=NC=CC2)C(C)C | C9H10BrN3
reactant | 6-methoxypyridin-3-ylboronic acid | 96 mg | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | Xphos | 39.7 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Cs2CO3 | 271 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(OAc)2 | 9.35 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(6-Methoxypyridin-3-yl)-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine | 100 mg | COC1=CC=C(C=N1)C1=NN(C=2C1=NC=CC2)C(C)C | C15H16N4O
